US09169246B2
Step 5.2. 4-bromo-2-[(3-ethoxy-3-oxopropanoyl)(propan-2-yl)amino]benzoic acid
To a solution of 4-bromo-2-(propan-2-ylamino)benzoic acid (6.8 g, 26.64 mmol) in 260 mL of DCM is added triethylamine (4 mL, 31.6 mmol), followed by dropwise addition of ethyl malonate chloride (4.0 mL, 31. mmol). The mixture is stirred for 2 hours at room temperature, and then poured into molar hydrochloric acid solution and extracted with EtOAc. The organic phase is washed with water and with saturated aqueous NaCl solution, dried over Na2SO4 and concentrated to dryness. 7.15 g of a pale yellow solid are obtained (yield: 72%).

reactant | 4-bromo-2-(propan-2-ylamino)benzoic acid | 26.64 mmol, 6.8 g | BrC1=CC(=C(C(=O)O)C=C1)NC(C)C | C10H12BrNO2
reactant | triethylamine | 31.6 mmol, 4 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl malonate chloride | 4.0 mL | [Cl-].C(CC(=O)[O-])(=O)OCC
reactant | hydrochloric acid | Cl | ClH
solvent | DCM | 260 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-[(3-ethoxy-3-oxopropanoyl)(propan-2-yl)amino]benzoic acid | 7.15 g, yield: 72% | BrC1=CC(=C(C(=O)O)C=C1)N(C(C)C)C(CC(=O)OCC)=O | C15H18BrNO5
